US09079853B2
5-chloro-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)-1-propylindolin-2-one
This compound was made in a similar manner to 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one using 5-chloro-1-propylindoline-2,3-dione and 2-acetyl pyridine (purchased from Fisher Scientific). 1H-NMR δ 8.70 (d, 1H), 8.10 (d, 1H), 7.92 (t, 1H), 7.56 (dd, 1H), 7.28 (m, 2H), 6.79 (d, 1H), 3.63 (m, 5H), 1.70 (m, 2H), 0.96 (t, 3H). Calculated mass for C18H17ClN2O3, 344.09. Observed 345.0 (M+1), 367.1 (M+Na).

reactant | 1-butyl-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)indolin-2-one | C(CCC)N1C(C(C2=CC=CC=C12)(CC(C1=NC=CC=C1)=O)O)=O | C19H20N2O3
reactant | 5-chloro-1-propylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CCC)=O)=O | C11H10ClNO2
reactant | 2-acetyl pyridine | C(C)(=O)C1=NC=CC=C1 | C7H7NO
product | 5-chloro-3-hydroxy-3-(2-oxo-2-(pyridin-2-yl)ethyl)-1-propylindolin-2-one | ClC=1C=C2C(C(N(C2=CC1)CCC)=O)(CC(C1=NC=CC=C1)=O)O | C18H17ClN2O3
